US06458748B1
11.2 g (0.28 M) of 60% sodium hydride was suspended in 100 ml of N,N-dimethylformamide. While the suspension was cooled to 10° C. or lower in an ice water bath and stirred, thereto was dropwise added a solution of 25 g (0.14 M) of 2-(4,6-dimethoxypyrimidine-2-yl)acetonitrile dissolved in 100 ml of N,N-dimethylformamide. After the completion of the dropwise addition, the mixture was stirred at room temperature until there was no evolution of hydrogen. While the mixture was cooled to 10° C. or lower in an ice water bath and stirred, thereto was dropwise added a solution of 28 g (0.14 M) of 2-chloro-6-methoxymethylnitrobenzene dissolved in 100 ml of dimethylformamide. Then, the mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into ice water. The mixture was acidified with 10% hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and water, dried and concentrated under reduced pressure. The resulting crystals were washed with a mixed solvent of ethanol and isopropyl ether to obtain 31 g (yield: 64%) of 2-(4,6-dimethoxypyrimidine-2-yl)-2-(3-methoxymethyl-2-nitrophenyl)acetonitrile as a reddish brown powder (melting point: 112 to 113° C).

reactant | sodium hydride | 0.28 M, 11.2 g | [H-].[Na+]
reactant | 2-(4,6-dimethoxypyrimidine-2-yl)acetonitrile | 0.14 M, 25 g | COC1=NC(=NC(=C1)OC)CC#N | C8H9N3O2
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-6-methoxymethylnitrobenzene | 0.14 M, 28 g | ClC1=C(C(=CC=C1)COC)[N+](=O)[O-] | C8H8ClNO3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4,6-dimethoxypyrimidine-2-yl)-2-(3-methoxymethyl-2-nitrophenyl)acetonitrile | 31 g, yield: 64% | COC1=NC(=NC(=C1)OC)C(C#N)C1=C(C(=CC=C1)COC)[N+](=O)[O-] | C16H16N4O5
